US05464746
Example 8: 2-[3-carboxypropyloxy]-dibenzofuran (Dbf-BAE, F246), a tethered hapten
2-Hydroxydibenzofuran (0.5 gm, 2.7 mmol), ethylbromobutyrate (0.78 mL, 5.4 mmol), potassium carbonate (1.1 gm, 8.1 mmol), and sodium iodide (10 mg) were combined in 2-butanone (15 mL). The reaction was refluxed until complete, then the reaction filtered and the solvent removed under reduced pressure. The residue was taken up in 6M aqueous KOH/methanol, 1:1. After the hydrolysis was complete the reaction was acidified to pH 3 and the product extracted with ethyl acetate. The residue was purified by column chromatography (silica gel, ethyl acetate/hexanes/acetic acid, 10:30:60:0.5). The yield was 0.52 gm of product. Mass spectrum: DCI/NH3, (m+H)+ @ m/z 271, (m+NH4)+ @ m/z 288, (m+NH4 ·NH3)+ @ m/z 305.

reactant | 2-Hydroxydibenzofuran | 2.7 mmol, 0.5 gm | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | ethylbromobutyrate | 5.4 mmol, 0.78 mL | C(C)C(C(=O)[O-])(CC)Br
reactant | potassium carbonate | 8.1 mmol, 1.1 gm | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 10 mg | [I-].[Na+]
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
product | 2-[3-carboxypropyloxy]-dibenzofuran | C(=O)(O)CCCOC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C16H14O4
